Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Compartment abdominal syndrome due to massive polycystic kidney 
bilateral disease with end-stage renal disease.

 
Major Surgical or Invasive Procedure:
___ 
1. Bilateral polycystic kidney nephrectomy with partial
    ureterectomy of both right and left kidneys.
2. Placement of ON-Q device for perioperative pain control.
3. Umbilical hernia repair with midline fascial closure
    with #1 Prolene.
___ HD

 
Past Medical History:
Compartment abdominal syndrome due to massive polycystic
    kidney bilateral disease with end-stage renal disease.
Polycystic liver disease with normal liver synthetic function.
Umbilical hernia non incarcerated.
Sleep apnea.
Diastolic heart failure with normal left ventricular function.
Hypertension

 
Social History:
___
Family History:
There is no family history of polycystic liver or kidney disease
or cerebral aneurysms.  His mother is healthy and alive in ___
at the age of ___.  He has one brother and sister, but does not
know much about their health care.  He had one brother who was
killed in a motor vehicle accident.  He has no family history of
cancer as stated above, polycystic liver or kidney disease

 
Physical Exam:
VS: 97.6, BP 90/60 mmHg, HR 69, 
General: Alert and oriented
HEENT: Mild pallor. no icterus. conjuctiva and sclera clear  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, distended, bowel sounds present, 
Incision is clean dry and intact without drainage or bleeding. 
Ext:no clubbing, cyanosis or edema;  
ACCESS:  Left AVF with good bruit and thrill 

 
Pertinent Results:
Labs POD 0: ___
WBC-11.4*# RBC-3.53* Hgb-10.7* Hct-33.2* MCV-94 MCH-30.3 
MCHC-32.2 RDW-14.8 RDWSD-50.9* Plt ___ PTT-32.7 ___
Glucose-106* UreaN-53* Creat-8.2*# Na-140 K-4.3 Cl-98 HCO3-18* 
AnGap-28*
ALT-842* AST-829* AlkPhos-54 TotBili-2.8*
Calcium-8.9 Phos-7.5* Mg-2.1
.
Labs at Discharge: ___
WBC-5.4 RBC-3.05* Hgb-9.6* Hct-29.2* MCV-96 MCH-31.5 MCHC-32.9 
RDW-17.0* RDWSD-54.7* Plt Ct-95*
Glucose-117* UreaN-42* Creat-6.6*# Na-143 K-3.7 Cl-97 HCO3-27 
AnGap-23*
ALT-7 AST-53* AlkPhos-240* TotBili-2.0*
Calcium-8.0* Phos-5.5* Mg-2.___ y/o male with history of polycystic kidney and liver disease. 
After a year and a half of evaluation and multiple consultations 
because of his diastolic heart failure, due to his end-stage 
renal disease, and massive abdominal polycystic kidney and liver 
disease causing compartment syndrome and inability to actually 
have room for kidney transplant placement it was determined to 
perform native nephrectomies. 

The patient was taken to the OR with Dr. ___ for 
bilateral native nephrectomies and hernia repair. At the time of 
surgery, upon entering the abdomen, there were multiple 
adhesions and essentially basketball-sized polycystic kidneys
that were causing a very tense, firm abdomen with no ascites per 
Dr. ___.
The patient received 2 units of packed cells and 135 cc of Cell 
Saver for EBL of 700 cc. He also received 4 L of crystalloid and 
2.25 L of 5% albumin. Because of the massive dissection and 
concern for fluid shifts in this end-stage renal disease 
patient, the patient was left intubated and once hemostasis was 
checked, the colon on right and left were returned to their 
normal anatomic positions.  By the end of the case there were no 
complications and he was transferred to the ICU, still intubated 
for close overnight monitoring. 

On POD 1 the patient was stable for extubation. He was dialyzed, 
and received an additional 1 unit RBCs and also one unit FFP. He 
was off pressors and LFTs which took an initial upward trend 
were decreasing already. 
The following day, POD 2, he required going back on Neo for a 
short time in the morning. HD was deferred and received albumin 
with subsequent improvement in blood pressure and was able to 
come off pressors, and did not require additional pressors 
during his post op stay. 

On POD 3, the On-Q pump was completed and so was removed. As 
well the NG tube was removed and he was passing flatus. 
On that same day it was initially thought he was in AFib with 
RVR. Cardiology was engaged due to his history of diastolic 
heart failure. It was determined this was likely PACs, however 
he was placed on beta blockade with good control of heart rate 
and rhythm. 

By POD 4 the patient was stable for transfer to regular surgical 
floor. He was on his routine ___ schedule for dialysis which 
he was tolerating well. 

He was started on sips to clears with good tolerance. He 
continued to pass flatus and was started on a bowel regimen.

On ___ per Dr ___, a repeat TTE was performed to 
assure his cardiac function was stable. The TTE showed grade I 
diastolic dysfunction, EF>55%; fairly unchanged from ___. 

Clear liquids were continued through ___ and the 
patient may resume renal diet with low potassium, low 
phosphorous, low sodium restrictions. He will be continuing 
outpatient hemodialysis as previously scheduled.

Of note, a clear cell carcinoma was seen on the pathology of the 
native kidney and will be having an MRI and follow up with Dr. 
___.

 
  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Calcium Acetate 2668 mg PO TID W/MEALS 
3. Vitamin D ___ UNIT PO 1X/WEEK (___) 
4. FoLIC Acid 1 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Metoprolol Tartrate 100 mg PO TID 
7. Simvastatin 40 mg PO QPM 
8. Aspirin 81 mg PO DAILY 
9. Cyanocobalamin 1000 mcg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H 
RX *acetaminophen 325 mg 2 capsule(s) by mouth every 8 hours 
Disp #*60 Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*0 
3.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*3 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily Disp 
#*30 Tablet Refills:*0 
6.  Metoprolol Tartrate 25 mg PO QID afib 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth 4 times daily 
Disp #*60 Tablet Refills:*2 
7.  Aspirin 81 mg PO DAILY  
8.  Calcium Acetate 2668 mg PO TID W/MEALS  
9.  Cyanocobalamin 1000 mcg PO DAILY  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Simvastatin 40 mg PO QPM  
13.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
polycystic liver and kidney disease
diastolic heart disease
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, yellowing of the skin or 
eyes, inability to tolerate food, fluids or medications, the 
incision sites have redness, drainage or bleeding, or any other 
concerning symptoms.

You may shower. Allow water to run over the incision sites. Do 
not apply lotions or powders to the incision areas. Leave 
incisions open to the air.

Continue outpatient hemodialysis at your regular ___ 
facility per your routine ___.

Several of your medications are on hold, Dr. ___ will help 
get these medications restarted when appropriate. Specifically 
you were taking lisinopril and amlodipine for high blood 
pressure but now your blood pressure has been adequately 
controlled without it. Additionally we reduced the dosage of 
your metoprolol. Please take the medications as prescribed and 
if you blood pressure is high as an outpatient they can be 
restarted by your PCP or nephrologist. 

No lifting more than 10 pounds
No driving if taking narcotic pain medication

 
Followup Instructions:
___